US06576644B2
Diethyl 2-(4-cyanophenylamino)methylenemalonate
To 5.00 g (42.3 mmol) 4-aminobenzonitrile (Aldrich, 98%) was added 10.1 g (9.41 mL, 46.6 mmol, 1.1 eq) diethylethoxymethylenemalonate (Aldrich, 99%), and the mixture was dissolved in 50 mL toluene (HPLC grade). The solution was refluxed for four hours with a condensor open to the air. The solution was then poured into 200 mL hexane, and the resulting white precipitate was filtered and washed well with more hexane to yield 10.62 g (37.0 mmol, 85% yield) of the title compound as a slightly off-white solid (per LC/MS and 1H NMR). LC [MH+] 289, 97% purity.

reactant | 4-aminobenzonitrile | 42.3 mmol, 5.00 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | diethylethoxymethylenemalonate | 46.6 mmol, 9.41 mL, 10.1 g, 1.1 eq | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
reactant | hexane | 200 mL | CCCCCC | C6H14
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Diethyl 2-(4-cyanophenylamino)methylenemalonate | 37.0 mmol, 10.62 g, 85% yield | C(#N)C1=CC=C(C=C1)NC=C(C(=O)OCC)C(=O)OCC | C15H16N2O4
